US04835175
One gram of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)indole-2-carboxylic acid hydrochloride is combined with 650 mg of N-(2-hydroxyethyl)morpholine, 366 mg of 4-dimethylaminopyridine, 450 mg of N,N'-dicyclohexylcarbodiimide, 5 ml of absolute dimethylformamide, and 15 ml of absolute tetrahydrofuran and agitated for one hour at 0° C. and for another 16 hours at room temperature. The reaction mixture is filtered, the filtrate is concentrated, the residue is taken up in ethyl acetate, washed four times with water; the organic phase is dried and concentrated. The residue is chromatographed over an aluminum oxide column (activity stage II; eluent: ethyl acetate/cyclohexane 2+1), yielding 440 mg of 7-benzyloxy-4-(N-benzyl-N-butylaminoacetyl)indole-2-carboxylic acid 2-(morpholino)-ethyl ester, mp 149°-150° C. (from ethyl acetate/diisopropyl ether).

reactant | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)indole-2-carboxylic acid hydrochloride | One gram | Cl.C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(NC12)C(=O)O)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O
reactant | N-(2-hydroxyethyl)morpholine | 650 mg | OCCN1CCOCC1 | C6H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 450 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 366 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-benzyloxy-4-(N-benzyl-N-butylaminoacetyl)indole-2-carboxylic acid 2-(morpholino)-ethyl ester | 440 mg | O1CCN(CC1)CCOC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(CCCC)CC1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C35H41N3O5
